Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with history of high-grade ovarian cancer currently on 
chemotherapy presents with lower abdominal pain as well as 
decreased bowel movements over the last ___ days. She denies any 
fevers or chills.  She states she has been taking a bowel 
regimen including docusate, polyethylene glycol, senna, 
lactulose.  Her last bowel movement was morning of ___ and was 
small. She denies any dark or tarry or bloody stools. She does 
feel like her abdomen has been more distended over the last 
several days. She denies any vomiting but has had occasional 
nausea.  She has been tolerating POs however.  She denies any 
changes in her urinary habits. She denies any chest pain, cough, 
shortness of breath.  She is referred by her oncologist to be 
evaluated in the emergency department for concern for possible 
obstruction.  Last chemotherapy was on ___.

In the ED, initial vitals were 97.2 102 131/86 18 100%.  Labs 
showed leukocytosis to 17.5K with 95% neutrophils, heamtocrit of 
29.9, lactate of 1.8.  Morphine 5 mg IV x 2 and ondansetron 2 mg 
IV x 2 were administered.  CT abdomen/pelvis preliminarily 
showed no acute pathology in the abdomen or pelvis, moderate 
fecal loading, and two simple fluid collections in the 
retroperitoneum and left pelvic sidewall, small than prior.  
Vitals upon transfer were 98.0 84 122/76 14 99%RA. 

Upon arrival to the floor, patient reports ___ abdominal pain.
    
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies vomiting, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria.  Denies arthralgias or myalgias.  Ten point review  of 
systems is otherwise negative.

 
Past Medical History:
Connective tissue disorder
Raynaud's syndrome
Depression
Irritable bowel syndrom
Osteoporosis  
Headache
Uterine fibroids
s/p wrist surgery 

 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.

 
Physical Exam:
DISCHARGE EXAM
--------------
Vitals: 98.5   120/82   80 (manual)  18    100%RA
GEN: Alert, oriented to name, place and situation.  Appears 
slightly uncomfortable, no acute signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, mildly tender in periumbilical area, no rebound or 
guarding, non-distended, + bowel sounds, healed vertical midline 
surgical scar
EXTR: No lower leg edema, no clubbing or cyanosis
DERM: No active rash
Neuro: non-focal.
PSYCH: Appropriate and calm.

 
Pertinent Results:
==================================
              Labs
==================================
___ 05:25PM BLOOD WBC-17.5*# RBC-3.41* Hgb-10.6* Hct-29.9* 
MCV-88 MCH-30.9 MCHC-35.2* RDW-19.8* Plt ___
___ 05:25PM BLOOD Neuts-95.0* Lymphs-2.2* Monos-2.6 Eos-0.1 
Baso-0.1
___ 05:25PM BLOOD Glucose-108* UreaN-14 Creat-0.7 Na-142 
K-3.9 Cl-100 HCO3-29 AnGap-17
___ 05:25PM BLOOD ALT-19 AST-22 AlkPhos-93 TotBili-0.3
___ 05:25PM BLOOD Albumin-4.7
___ 05:42PM BLOOD Lactate-1.8
___ 05:30AM BLOOD WBC-20.4* RBC-3.19* Hgb-9.8* Hct-28.3* 
MCV-89 MCH-30.6 MCHC-34.5 RDW-19.3* Plt ___
___ 05:30AM BLOOD Glucose-78 UreaN-11 Creat-0.7 Na-141 
K-3.5 Cl-101 HCO3-29 AnGap-15

==================================
            Radiology            
==================================

CT abdomen ___
FINDINGS:
 
CT ABDOMEN:  The bases of the lungs are clear.  The liver 
enhances
homogeneously with no evidence of focal lesions.  There is no 
intra or
extrahepatic biliary ductal dilatation.  The portal vein is 
patent.  The
gallbladder is unremarkable.  The pancreas, spleen, bilateral 
adrenal glands,
and bilateral kidneys are normal in appearance.  The 
intra-abdominal
vasculature is unremarkable with a widely patent celiac axis, 
superior
mesenteric and inferior mesenteric artery.  The aorta is of 
normal caliber
throughout.  
 
Multiple surgical clips are identified throughout the 
retroperitoneum, from
prior lymph node dissection.  Additionally, midline abdominal 
scar is seen in
the subcutaneous soft tissues.  Just below the level of the 
aortic
bifurcation, there is redemonstration of a well-circumscribed 
low-density
fluid collection (2:49), measuring 1.1 x 0.9 cm, previously 
measuring 1.4 x
1.2 cm, slightly decreased in size since the prior study.  The 
intra-abdominal
loops of small and large bowel are unremarkable, normal in 
caliber and contour
with no evidence of obstruction.  The colon is filled with a 
moderate amount
of stool throughout.  No intraperitoneal free air or free fluid 
is identified.
There is fecalization of some loops of distal ileum, likely due 
to stasis with
no evidence of obstruction. 
 
CT PELVIS:  The uterus and bilateral ovaries are surgically 
absent.  The
bladder is distended, and unremarkable.  The rectum and sigmoid 
colon are
filled with stool and are not normal in appearance.  There is a 
left pelvic
sidewall low-density fluid collection which measures 3.1 x 2.4 
cm (2:65),
previously measuring 3.0 x 2.7 cm .  No pelvic free fluid is 
identified.
 
OSSEOUS STRUCTURES:  No lytic or blastic lesions suspicious for 
malignancy is
present.
 
IMPRESSION:
 
1. No acute pathology in the abdomen or pelvis.
 
2. Moderate fecal loading throughout the colon.
 
3. Redemonstration of 2 simple fluid collections in the 
retroperitoneum and
left pelvic sidewall at the site of prior lymph node dissection, 
slightly
smaller compared to prior CT from ___, possibly 
representing
postoperative seromas or lymphoceles.  
 
Brief Hospital Course:
The patient was admitted for abdominal pain. CT abdomen showed 
no acute findings. Her bowel regimen was changed as follows: 
lactulose and docusate were stopped, dulcolax was made PRN, 
miralax was increased, and a new medication, Linzess 
(linaclotide) was added. The new medication is not available 
here readily but was called into her pharmacy. She will pick it 
up and start after discharge. She will continue on miralax for 
now but eventually can try to decrease to linaclotide 
monotherapy. 
She had leukocytosis on this admission which may be related to 
Neulasta treatment. She had no sign of infection. She will 
follow up in clinic for further care of her ovarian cancer.

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Duloxetine 90 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
7. Lactulose 30 mL PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
10. Omeprazole 40 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 1 TAB PO BID:PRN constipation 
14. Multivitamins 1 TAB PO DAILY 
15. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Duloxetine 90 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
6. Loratadine 10 mg PO DAILY 
7. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 1 TAB PO BID:PRN constipation 
13. Vitamin D ___ UNIT PO DAILY Vitamin D deficiency 
14. Nystatin 500,000 UNIT PO Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and 
constipation. You had a CT scan which showed no medical 
emergency. You have had ongoing trouble with IBS/constipation 
and some of your medications were changed: lactulose, which can 
cause gas, was replaced with more miralax and a new medication 
called linaclotide, which is helpful for patients with chronic 
constipation.  
 
Followup Instructions:
___